US06897231B2
A. [3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-N-(2-piperidylethyl)carboxamide
HOBT (1.74 g, 12.93 mmol) was added in one portion to a solution of 3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoic acid (1.50 g, 4.31 mmol) in anhydrous THF (50.0 mL) and anhydrous DMF (20.0 mL) at ambient temperature. After 30 min EDAC.HCl (2.47 g, 12.93 mmol) and 1-(2-aminoethyl)piperidine (1.84 mL, 12.93 mmol) was added and the resultant mixture was stirred for 20 h. The reaction mixture was partitioned between ethyl acetate and water, washed with brine, dried over Na2SO4 and concentrated in vacuo during which the product began to precipitate as a colorless solid. Hexanes were added and the desired product was collected by vacuum filtration (1.8 g, 91% yield) ES-MS (m/z) 458 [M+H]+.

reactant | HOBT | 12.93 mmol, 1.74 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoic acid | 4.31 mmol, 1.50 g | C(#N)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C(=O)O)C=CC1 | C20H17N3O3
reactant | EDAC.HCl | 12.93 mmol, 2.47 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-(2-aminoethyl)piperidine | 12.93 mmol, 1.84 mL | NCCN1CCCCC1 | C7H16N2
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | [3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-N-(2-piperidylethyl)carboxamide | 91% yield | C(#N)C1CCC(OC1)N1N=C(C2=CC=CC=C12)C=1C=C(C=CC1)C(=O)NCCC1NCCCC1 | C27H31N5O2
